US04089976
Preparation of 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea.
Similarly, 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine and excess urea are mixed and heated until ammonia evolution ceases. The solid product, 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea, is washed with water, collected by filtration and dried.

reactant | 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine | O=C1CCC(C2=CC=CC=C12)N | C10H11NO
reactant | urea | NC(=O)N | CH4N2O
reactant | ammonia | N | H3N
product | 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea | O=C1CCC(C2=CC=CC=C12)NC(=O)N | C11H12N2O2
